US03946004
10-[5-n-BUTYL-1-(5-n-BUTYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE.
Reaction of 4-chlorophenoxazine with 5-methyl-2-pyrrolidinone according to the procedure of Example 4 provides

reactant | 4-chlorophenoxazine | ClC1=CC=CC=2NC3=CC=CC=C3OC12 | C12H8ClNO
reactant | 5-methyl-2-pyrrolidinone | CC1CCC(N1)=O | C5H9NO
product | 10-[5-n-BUTYL-1-(5-n-BUTYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE | C(CCC)C1CC=C(N1C1=NC(CC1)CCCC)N1C2=CC=CC=C2OC=2C=CC=CC12 | C28H35N3O
